* C:\Users\Lingke\Desktop\FYP\Round 1 Prototype\PCB Related\BCC-Round1\LTSpice Related\ED.asc
V1 N001 0 SINE(0 5 100k)
V2 N002 0 SINE(0 5 4000k)
R1 Vout N001 500
R2 Vout N002 500
R4 Vout 0 1k
C1 N003 0 47p
D1 Vout N003 D
R5 N003 0 25k
.model D D
.lib C:\Users\Lingke\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.1m
.backanno
.end
